US08536183B2
(2S)-1-[(4-Chlorophenyl)sulfonyl]-2-methyl-4-[(6-methyl-3-pyridinyl)carbonyl]piperazine
To a suspension of (2S)-1-[(4-chlorophenyl)sulfonyl]-2-methylpiperazine hydrochloride (Description 4) (105 mg, 0.338 mmol), EDC (71.2 mg, 0.371 mmol), HOBT.H2O (56.9 mg, 0.371 mmol) and 6-methyl-3-pyridinecarboxylic acid (51.0 mg, 0.372 mmol) in DCM (5 ml) was added N-ethylmorpholine (0.090 ml, 0.710 mmol). The reaction was stirred for 18 h at ambient temperature. To the reaction was added water (3 ml) and the organic layer collected via a hydrophobic frit. The organic layer was reduced in volume to approximately 2 ml then loaded onto a silica SP4 chromatography cartridge. The cartridge was eluted with ethyl acetate then a gradient from 0-10% (20% methanol in dichloromethane) in ethyl. Fractions containing the desired product were combined and reduced in vacuo to yield the title compound as a white solid (55 mg).

reactant | (2S)-1-[(4-chlorophenyl)sulfonyl]-2-methylpiperazine hydrochloride | 0.338 mmol, 105 mg | Cl.ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CNCC1)C
reactant | EDC | 0.371 mmol, 71.2 mg
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 6-methyl-3-pyridinecarboxylic acid | 0.372 mmol, 51.0 mg | CC1=CC=C(C=N1)C(=O)O | C7H7NO2
reactant | N-ethylmorpholine | 0.710 mmol, 0.090 ml | C(C)N1CCOCC1 | C6H13NO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 3 ml | O | H2O
solvent | H2O | 0.371 mmol, 56.9 mg | O | H2O
product | (2S)-1-[(4-Chlorophenyl)sulfonyl]-2-methyl-4-[(6-methyl-3-pyridinyl)carbonyl]piperazine | 55 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)C=1C=NC(=CC1)C)C | C18H20ClN3O3S
